US07101882B2
Intermediate 19: 2,2,2-Trifluoro-N-(morpholin-2-ylmethyl)acetamide
To a stirred solution of morpholin-2-ylmethylamine (3.1 g) in methanol (70 ml) under nitrogen was added an ethereal solution of ethyl-α,α,α-trifluoroacetate (5 ml in 20 ml ether) which had been washed with saturated aqueous sodium bicarbonate, water and brine, and dried. The mixture was stirred for 30 min at 22° C. before removal of all volatiles in vacuo. The residue was dissolved in methanol (10 ml) and the volatiles again removed in vacuo to give the title compound as a white crunchy foam (4.9 g).

reactant | morpholin-2-ylmethylamine | 3.1 g | N1CC(OCC1)CN | C5H12N2O
reactant | ethyl-α,α,α-trifluoroacetate | 5 ml | C(C)OC(C(F)(F)F)=O | C4H5F3O2
solvent | methanol | 70 ml | CO | CH4O
product | 2,2,2-Trifluoro-N-(morpholin-2-ylmethyl)acetamide | FC(C(=O)NCC1CNCCO1)(F)F | C7H11F3N2O2
